US07781478B2
To a suspension of 4-iodophenylisocyanate (0.84 g, 3.5 mmol) in CH2Cl2 (6 mL) was added (R)-1-cyclopropylethanol (0.67 mL, 6.9 mmol). The solution was then directly subjected to silica gel chromatography (CH2Cl2) to provide (R)-(4-iodo-phenyl)carbamic acid 1-cyclopropyl-ethyl ester (1.05 g, 93%).

reactant | 4-iodophenylisocyanate | 3.5 mmol, 0.84 g | IC1=CC=C(C=C1)N=C=O | C7H4INO
reactant | (R)-1-cyclopropylethanol | 6.9 mmol, 0.67 mL | C1(CC1)[C@@H](C)O | C5H10O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (R)-(4-iodo-phenyl)carbamic acid 1-cyclopropyl-ethyl ester | 1.05 g, 93% | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)I)=O | C12H14INO2
